US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-(2-(phenylamino)ethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a THF solution (2 ml) of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (50 mg, 0.14 mmol), prepared as described in Example 1, 2-(phenylamino)ethanol (19 mg, 0.13 mmol), triphenylphosphine (55 mg, 0.21 mmol) was added diethyl azodicarboxylate (0.09 ml, 42% wt in toluene, 0.21 mmol). After 1 h, the reaction mixture was concentrated. The crude material was purified by preparative HPLC to give the title compound, 7,8-bis(4-chlorophenyl)-2-(2-(phenylamino)ethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (14.4 mg, 23%) as a yellow solid. MS M+H=476; 1H NMR (CDCl3) δ 8.20 (1H), 7.41-7.20 (11H), 7.10 (2H), 4.51 (2H), 3.91 (2H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 2-(phenylamino)ethanol | 0.13 mmol, 19 mg | C1(=CC=CC=C1)NCCO | C8H11NO
reactant | triphenylphosphine | 0.21 mmol, 55 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.21 mmol, 0.09 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 7,8-bis(4-chlorophenyl)-2-(2-(phenylamino)ethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 14.4 mg, 23% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CCNC2=CC=CC=C2)=O)C2=CC=C(C=C2)Cl | C25H19Cl2N5O
